US04352795
A mixture of 5 g of 7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidine-4-thione, 5 g of Raney nickel, and 250 ml of water is stirred and heated under reflux for one hour and filtered while hot. The filtrate is evaporated in vacuo to a small volume and cooled to provide pure 7-β-D-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidine.

reactant | 7-β-D-arabinofuranosyl-3,7-dihydro-4H-pyrrolo[2,3-d]pyrimidine-4-thione | 5 g | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=CC2=C1N=CNC2=S | C11H13N3O4S
catalyst | Raney nickel | 5 g | [Ni] | Ni
solvent | water | 250 ml | O | H2O
product | 7-β-D-arabinofuranosyl-7H-pyrrolo[2,3-d]pyrimidine | [C@@H]1([C@@H](O)[C@H](O)[C@H](O1)CO)N1C=CC2=C1N=CN=C2 | C11H13N3O4
